US04025614
To a solution of 2.76 g. (0.02 mol) of m-nitroaniline in 5 ml. of pyridine cooled to 0° C. is added 1.6 ml. (0.02 mol) of methanesulfonyl chloride dropwise and the mixture is stirred at room temperature for two hours. The reaction mixture is decomposed by addition of dilute hydrochloric acid and ice, and dried to give m-(methylsulfonamido)-nitrobenzene, m.p. 237° C. The latter, 1.08 g. (0.005 mol), is dissolved in 100 ml. of ethanol, 300 mg. of 10% palladium-on-carbon is added and the mixture is hydrogenated in a Parr shaker. After hydrogen uptake has ceased, the catalyst is filtered off leaving the product, 3-methylsulfonamidoaniline, in solution. To this solution (100 ml. ethanol) is added 1.08 g. (0.005 mol) of 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one and the solution is refluxed for one hour. The reaction mixture is concentrated and filtered to yield 5-acetyl-4-hydroxy-3-[1-(3-methylsulfonamidophenylamino)ethylidene]-2H-pyran-2,6(3H)-dione, m.p. 196° C.

reactant | m-nitroaniline | 0.02 mol | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
reactant | methanesulfonyl chloride | 0.02 mol | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | m-(methylsulfonamido)-nitrobenzene | CS(=O)(=O)NC=1C=C(C=CC1)[N+](=O)[O-] | C7H8N2O4S
